US07294618B2
5-Methyl-4-[(4-methylthiophenyl)methyl]-1-phenyl-1,2-dihydro-3H-pyrazol-3-one
To a solution of 1-bromo-4-methylthiobenzene (0.21 g) in tetrahydrofuran (10 mL) was added tert-butyllithium (1.6 mol/L pentane solution, 0.67 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 5 minutes. To the reaction mixture was added a solution of 3-benzyloxy-4-formyl-5-methyl-1-phenyl-1H-pyrazole (0.20 g) in tetrahydrofuran (3 mL), and the mixture was warmed to 0° C. and stirred for 30 minutes. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and the mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. To the residue was added hexane, and the precipitates were collected by filtration to give a white crystals. The obtained crystals were dissolved in methanol (5 mL) and tetrahydrofuran (6 mL). To a solution was added 10% palladium-carbon powder (0.30 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 16 hours. Insoluble materials were removed by filtration, and the solvent of the filtrate were removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=6/1-3/1) to give an oily substance. The obtained oily substance was dissolved in trifluoroacetic acid (1.9 mL) and water (0.1 mL), and to the solution was added dimethyl sulfide (0.2 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1) to give the title compound (0.054 g).

reactant | 1-bromo-4-methylthiobenzene | 0.21 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | tert-butyllithium | 1.6 mol/L, 0.67 mL | C(C)(C)(C)[Li]
reactant | 3-benzyloxy-4-formyl-5-methyl-1-phenyl-1H-pyrazole | 0.20 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)C)C1=CC=CC=C1 | C18H16N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethyl sulfide | 0.2 mL | CSC | C2H6S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | trifluoroacetic acid | 1.9 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.1 mL | O | H2O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | 5-Methyl-4-[(4-methylthiophenyl)methyl]-1-phenyl-1,2-dihydro-3H-pyrazol-3-one | 0.054 g | CC1=C(C(NN1C1=CC=CC=C1)=O)CC1=CC=C(C=C1)SC | C18H18N2OS
